US07691877B2
N*4*-Benzyl-2-chloro-6-trifluoromethyl-pyridine-3,4-diamine
4-Bromo-2-chloro-6-trifluoromethyl-pyridin-3-ylamine (84 g, 300 mmol) was stirred in 500 ml DMSO in the presence of caesium fluoride (46.3 g, 305 mmol) and benzylamine (66.6 ml, 610 mmol). The resulting brown suspension was heated at 150° C. for 16 h. Added to the cooled suspension was 1500ml water and the mixture extracted with 2×500 ml diethyl ether. The combined organic extracts were dried (MgSO4), concentrated in vacuo and purified by column chromatography on silica, eluting with Hept:EtOAc, 4:1 to 2:1 to give the title compound (15.8 g, 17%) as a pale brown solid. The undesired isomer was similarly isolated as a brown oil (51.0 g, 48%).

reactant | 4-Bromo-2-chloro-6-trifluoromethyl-pyridin-3-ylamine | 300 mmol, 84 g | BrC1=C(C(=NC(=C1)C(F)(F)F)Cl)N | C6H3BrClF3N2
reactant | caesium fluoride | 305 mmol, 46.3 g | [F-].[Cs+]
reactant | benzylamine | 610 mmol, 66.6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 1500ml | O | H2O
solvent | DMSO | 500 ml | CS(=O)C | C2H6OS
product | N*4*-Benzyl-2-chloro-6-trifluoromethyl-pyridine-3,4-diamine | 15.8 g, 17% | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1)C(F)(F)F)Cl)N | C13H11ClF3N3
